US05194671
56 g (1 mol) of calcium oxide were placed in 650 ml of methylene chloride, and 116 g (1 mol) of methyl acetoacetate were added dropwise at 20° to 30° C. over 0.5 hour. Stirring was then continued for 1 hour at this temperature. 116 g (1.05 mol) of butyryl chloride were then metered in at a temperature of 30°-35° C. over one hour and stirring was then continued for 3 hours at this temperature. 54 g (1 mol) of ammonium chloride in 300 ml of water were then added to the viscous suspension at 30° C. and the resulting mixture was stirred for 30 minutes. The pH of the reaction mixture was adjusted to 9 with aqueous ammonia and stirring was continued for 3 hours at 30° C. After the reaction mixture had been acidified with concentrated hydrochloric acid (pH<1), it was washed with sodium bicarbonate solution and water. After separation of the water phase, the solvent was distilled off on an evaporator. This gave 141 g (GC purity 73%) of methyl butyrylacetate (yield 71%).

reactant | calcium oxide | 1 mol, 56 g | [O-2].[Ca+2]
reactant | methyl acetoacetate | 1 mol, 116 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | butyryl chloride | 1.05 mol, 116 g | C(CCC)(=O)Cl | C4H7ClO
reactant | ammonium chloride | 1 mol, 54 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
reactant | hydrochloric acid | pH<1 | Cl | ClH
solvent | methylene chloride | 650 ml | C(Cl)Cl | CH2Cl2
solvent | water | 300 ml | O | H2O
product | methyl butyrylacetate | 141 g, yield 71% | C(CCC)(=O)CC(=O)OC | C7H12O3
